### ISSUE TITLE
Tractatus: formalize the saying/showing distinction structurally (TLP 4.12–4.1212)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#10730]
## Context

The saying/showing distinction is the philosophical core of the Tractatus that the spec identifies as Layer 2: "annotate, don't formalize." But there's a structural shadow of it that *can* be formalized — the distinction between what our object language (the \`Proposition\` type) can express and what the metalanguage (Lean theorems *about* propositions) can state.

## Key Tractatus propositions

- TLP 4.12: "Propositions can represent the whole reality, but they cannot represent what they must have in common with reality in order to be able to represent it — the logical form."
- TLP 4.121: "Propositions cannot represent the logical form: this mirrors itself in the propositions. That which mirrors itself in language, language cannot represent."
- TLP 4.1212: "What can be shown cannot be said."
- TLP 6.12: "The propositions of logic... show the logical properties of language, of the world. ...you cannot *say* that the world has these properties."
- TLP 6.13: "Logic is not a theory but a reflection of the world. Logic is transcendental."

## Proposed formalization

Define what our object language can "say" (express as a proposition) versus what the metalanguage can "show" (prove as a Lean theorem):

```lean
-- "Sayable" propositions: things expressible in our object language
-- Everything of type Proposition S is sayable by construction.

-- "Showable" properties: things provable about propositions in Lean
-- For example: "p is a tautology" is showable (IsTautology p is a Lean Prop)
-- but NOT sayable (there is no Proposition S whose truth in a world 
-- corresponds to "p is a tautology across all worlds")

-- Theorem: Tautologousness is not sayable
-- There is no proposition q such that q.eval w ↔ IsTautology p for all w
-- (Because IsTautology p doesn't depend on w, but q.eval w does)
theorem tautologousness_not_expressible (p : Proposition S) [Nonempty S] :
    ¬ ∃ q : Proposition S, ∀ w : World S, 
      q.eval w ↔ IsTautology p := by
  -- Proof sketch: if IsTautology p, then q would need to be a tautology,
  -- but then it says nothing about p specifically.
  -- If ¬IsTautology p, then q would be a contradiction,
  -- but contradictions can't express specific metalogical facts.
  sorry -- this needs careful proof

-- Similarly: "p entails q" is not expressible as a proposition
-- (it's a relationship between propositions, not a fact about a world)
theorem entailment_not_expressible ...

-- But logical form SHOWS itself: the structure of our Lean proofs
-- mirrors the logical relationships. This is a philosophical observation,
-- not a theorem — put it in annotations.
```

## Why this is interesting

This is where the formalization becomes genuinely philosophical rather than merely logical. The theorem that "tautologousness is not expressible in the object language" is a baby version of Tarski's undefinability theorem — and it's *exactly* what Wittgenstein is gesturing at.

The proof requires assuming the object language has at least two truth-values (i.e., \`Nonempty S\` or similar), otherwise there are degenerate cases.

## Risks and caveats

- The "cannot be said" results are negative theorems — they say something *doesn't* exist. These are philosophically loaded: Wittgenstein means something stronger than "no proposition of our formal language expresses this." He means it's *in principle* inexpressible. Our theorem only shows it for *this particular* formal language.
- The annotations must be very careful not to overclaim. What we prove is a technical result about our object language. What Wittgenstein claims is a general thesis about the limits of language.
- This connects to Tarski and Godel but the Tractatus predates both — the annotation should note the historical priority.

## Acceptance criteria

- [ ] At least one "not expressible" theorem proved (e.g., tautologousness)
- [ ] Annotation explains the connection to TLP 4.12, 4.121, 4.1212
- [ ] Annotation carefully distinguishes the formal result from Wittgenstein's philosophical claim
- [ ] Annotation notes connection to Tarski's undefinability theorem (1936, 15 years later)
- [ ] No overclaiming: the annotation should say we've formalized a *structural analogue*, not the thesis itself

## Difficulty

Hard — both mathematically (the negative theorems need careful statement) and philosophically (the annotations are doing heavy lifting). This should probably be attempted after the foundational issues (#10721, #10722) are resolved.

**Comment by rjwalters** [comment]
## Curation Notes

This issue is well-formed and philosophically sharp. The enhancement below adds technical grounding from the existing Lean file, a more precise proof sketch for the main theorem, implementation notes for the full section, and a concrete test plan.

---

## Technical Context

### What already exists

`/Users/rwalters/GitHub/lean-genius/proofs/Proofs/TractatusOntology.lean` (394 lines, `namespace Tractatus`) already lays the foundation for this issue:

- **`Proposition S`** — an inductive type with constructors `elementary`, `neg`, `conj` (line 82)
- **`World S`** — defined as `Sachverhalt → Prop` (line 68), i.e., a predicate on states of affairs
- **`Proposition.eval`** — recursive truth-evaluation `(p : Proposition S) → (w : World S) → Prop` (line 130)
- **`IsTautology`** — `∀ w : World S, p.eval w` (line 148)
- **`IsContradiction`** — `∀ w : World S, ¬ (p.eval w)` (line 151)
- **`proposition_seven`** — already stated as a `sorry` theorem (lines 391–393):
  ```
  ∃ (P : Prop), ¬ ∃ (p : Proposition S), ∀ w : World S, p.eval w ↔ P
  ```
  This is the direct ancestor of `tautologousness_not_expressible`. The sorry is intentional — but proving it is the point of this issue.

The annotation for `proposition_seven` (`ann-tractatus-proposition-seven` in `annotations.json`) already identifies the Tarski connection and sketches the proof idea: construct `P` as `IsTautology q` for a non-trivial `q`, using the fact that `IsTautology q` is world-independent while every `Proposition S` varies across worlds (given `Nonempty S`).

### Key structural observation

The central tension this issue formalizes is already embedded in the file's architecture:

- `IsTautology p : Prop` lives in Lean's metalanguage — it is world-independent (no `w` argument)
- `(q : Proposition S).eval (w : World S) : Prop` lives in the object language — it is world-relative

Any property `P : Prop` that does not depend on `w` cannot be expressed by any `q : Proposition S` whose evaluation varies with `w` — *provided* the object language actually has propositions that vary (i.e., `Nonempty S` ensures at least one elementary proposition exists, and `elementary_independence` ensures worlds that disagree on it).

### Why `Nonempty S` is necessary

Without `Nonempty S`, every `Proposition S` evaluates to a world-independent value (vacuously — there are no states of affairs to distinguish worlds). In that degenerate case, every `P : Prop` IS expressible: take the tautology for `True`, the contradiction for `False`. The assumption `Nonempty S` rules out this collapse.

### Connection to `proposition_seven`

The existing `proposition_seven` and the proposed `tautologousness_not_expressible` are related but not identical:

- `proposition_seven` asserts: `∃ P, ¬ ∃ q, ∀ w, q.eval w ↔ P` — some P is inexpressible
- `tautologousness_not_expressible` asserts: for a *specific* `p`, `IsTautology p` is inexpressible

The specific version is stronger and more philosophically pointed. It also directly proves the existential (take `P := IsTautology p` as the witness for `proposition_seven`). Implementing this issue resolves the `sorry` in `proposition_seven`.

---

## Proof Sketch (Expanded)

```lean
theorem tautologousness_not_expressible (p : Proposition S) [Nonempty S] :
    ¬ ∃ q : Proposition S, ∀ w : World S, q.eval w ↔ IsTautology p := by
  intro ⟨q, hq⟩
  -- Case split on whether p is a tautology
  by_cases hp : IsTautology p
  · -- If IsTautology p holds, then hq says q.eval w ↔ True for all w,
    -- so q must be a tautology. But then q says nothing about p specifically:
    -- ANY tautological proposition serves as a witness, so this doesn't
    -- contradict anything yet... we need the second case.
    -- Actually the contradiction comes from: 
    -- IsTautology p is world-independent, but we need TWO worlds w₁, w₂
    -- such that q.eval w₁ ≠ q.eval w₂ (showing q is NOT world-independent)
    -- while IsTautology p IS world-independent.
    -- This is impossible, so q must be world-independent too,
    -- meaning q is either a tautology or a contradiction.
    -- Neither can track "IsTautology p" without collapsing.
    sorry
  · -- If ¬IsTautology p, then hq says q.eval w ↔ False for all w,
    -- so q is a contradiction. Same issue: q is world-independent.
    sorry
```

A cleaner proof path using `elementary_independence`:

```lean
-- Given Nonempty S, pick a witness s : S
-- Construct w₁ (where s obtains) and w₂ (where s doesn't) using elementary_independence
-- truth_functional_compositionality tells us if q tracks IsTautology p,
-- and IsTautology p doesn't depend on w, then q.eval w₁ = q.eval w₂
-- But then q cannot distinguish any two worlds on s, contradicting that
-- (elementary s).eval differs across w₁ and w₂ unless q is constant.
-- Yet a world-constant proposition is either always-true or always-false,
-- and IsTautology p is a fixed truth value — so q IS world-constant.
-- This means q is either a tautology or a contradiction.
-- Tautologies and contradictions cannot encode the specific fact "p is/isn't a tautology"
-- for arbitrary p, because the *same* tautology/contradiction would encode
-- the negation equally well.
```

The proof will require roughly:
1. `Classical.em (IsTautology p)` — case split
2. `elementary_independence` — to construct distinguishing worlds
3. `truth_functional_compositionality` — to show world-constant propositions must be tautologies or contradictions
4. A small lemma: a world-constant proposition is a tautology or a contradiction (`world_constant_is_taut_or_contra`)

### Entailment inexpressibility

The entailment version (if issue #10727 lands first and defines `Entails`) follows the same pattern:

```lean
theorem entailment_not_expressible (p q : Proposition S) [Nonempty S] :
    ¬ ∃ r : Proposition S, ∀ w : World S, r.eval w ↔ Entails p q
```

`Entails p q` is world-independent (it's `∀ w, p.eval w → q.eval w` — no free `w`), so the same argument applies.

---

## Implementation Guidance

### Section placement

Add a new section to `TractatusOntology.lean` between the current `SECTION 8: Theorems` block and `SECTION 9: The Limits of Formalization`. This keeps the file's TLP-ordered structure (4.12 precedes 6.54).

```lean
-- ═══════════════════════════════════════════════════════════════
-- SECTION 8b: The Saying/Showing Distinction (TLP 4.12–4.1212)
-- ═══════════════════════════════════════════════════════════════
```

### Key lemma to add first

```lean
-- A proposition whose truth value is world-independent is either a tautology or contradiction
lemma world_constant_taut_or_contra (q : Proposition S) [Nonempty S]
    (h : ∀ w₁ w₂ : World S, q.eval w₁ ↔ q.eval w₂) :
    IsTautology q ∨ IsContradiction q
```

This is the technical workhorse. Proof: pick any world `w₀`; by `h`, `q.eval w₀` determines `q.eval w` for all `w`. Then either `q.eval w₀` holds (making `q` a tautology) or it doesn't (making `q` a contradiction). Uses `Classical.em (q.eval w₀)`.

### Main theorems to add

1. `world_constant_taut_or_contra` (lemma)
2. `tautologousness_not_expressible` — proving `proposition_seven`'s sorry
3. `entailment_not_expressible` (if #10727 is resolved; otherwise stub with sorry)
4. Optionally: `contradiction_not_expressible` — symmetric to tautologousness

### Resolving `proposition_seven`

Once `tautologousness_not_expressible` is proved, `proposition_seven` can be closed:

```lean
theorem proposition_seven [Nonempty S] :
    ∃ (P : Prop), ¬ ∃ (p : Proposition S), ∀ w : World S, p.eval w ↔ P := by
  -- Witness: P := IsTautology (elementary (Classical.arbitrary S))
  -- Then apply tautologousness_not_expressible
  exact ⟨_, tautologousness_not_expressible (Proposition.elementary (Classical.arbitrary S))⟩
```

This would reduce the file's sorry count from 1 to 0, changing `"status"` to potentially `"verified"` in `meta.json` (once Docker build confirms).

### Annotations to add to `annotations.json`

Add 2–3 new annotation objects:

1. **Section annotation** — covering the new SECTION 8b block, explaining the saying/showing distinction philosophically and pointing to TLP 4.12, 4.121, 4.1212
2. **`world_constant_taut_or_contra` annotation** — noting this is the technical core; propositions are world-relative by construction, and the only world-independent ones are the extreme cases
3. **`tautologousness_not_expressible` annotation** — connecting to Tarski (1936), noting historical priority (Tractatus 1921), carefully distinguishing the formal result ("not expressible in THIS formal language") from Wittgenstein's philosophical claim ("in principle inexpressible in ANY language")

### Meta.json updates

- `"sorries"` field: reduce from 1 to 0 (if `proposition_seven` is closed)
- `"theoremCount"` and `"lineCount"`: update to reflect new section
- `"status"`: potentially change from `"axiomatized"` to `"verified"` — confirm with Docker build
- `"assumptions"` field: update to reflect no remaining sorries

---

## Dependency Analysis

**Strict prerequisites (issue body is correct):**
- #10721 (Docker build verification) — must pass before any new Lean code is added
- #10722 (connect objects to states of affairs) is NOT strictly required; the saying/showing theorems only need `Proposition S`, `World S`, `IsTautology`, which all exist

**Soft dependencies:**
- #10727 (logical consequence / `Entails`) — enables `entailment_not_expressible` but is not required for the tautologousness theorem
- #10725 (logical space / `sense`) — would strengthen annotations but doesn't affect proofs

**This issue enables:**
- Closing the `proposition_seven` sorry, which would make the gallery entry fully verified
- Stronger annotations for the existing `modus_ponens` theorem (already annotated as showing-not-saying in `ann-tractatus-thm12`)

---

## Acceptance Criteria (Refined)

- [ ] `world_constant_taut_or_contra` lemma is proved (no sorry)
- [ ] `tautologousness_not_expressible` is proved (no sorry)
- [ ] `proposition_seven` sorry is resolved using `tautologousness_not_expressible` as the witness
- [ ] At least one annotation (SECTION 8b concept annotation) explains the saying/showing distinction, cites TLP 4.12, 4.121, 4.1212, and distinguishes the formal result from Wittgenstein's philosophical claim
- [ ] Annotation for `tautologousness_not_expressible` notes Tarski's undefinability theorem (1936) and Wittgenstein's historical priority (1921)
- [ ] Annotation explicitly states: we have formalized a *structural analogue* of the saying/showing distinction, not the thesis itself
- [ ] `meta.json` updated: `sorries`, `theoremCount`, `lineCount` (and `status` if now fully sorry-free)
- [ ] Docker build passes: `./proofs/scripts/docker-build.sh Proofs.TractatusOntology`
- [ ] `entailment_not_expressible` is either proved (if #10727 is done) or stubbed as a `sorry` with a clear comment

## Test Plan

1. Run `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` — must exit 0
2. Check `#print axioms tautologousness_not_expressible` shows only `Classical.choice`, `propext`, `Quot.sound`
3. Check `#print axioms proposition_seven` — should now show no `sorry` dependency
4. Run `pnpm build` in the repo root — gallery must build without errors
5. Verify `meta.json` fields are consistent with the Lean file (sorries, theoremCount, lineCount)
6. Read the new annotations and confirm: (a) no overclaiming, (b) Tarski connection noted, (c) historical priority noted, (d) formal/philosophical distinction clear
